US07250442B2
1-Benzenesulfonyl-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one
In a 40-mL vial, combine 0.15 g (1.0 mmol) of 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one with 15 mL of dry THF under nitrogen. Add 1.0 equivalent of sodium hydride and stir the resulting mixture 30 minutes under nitrogen. Add 2.0 equivalence of benzenesulfonyl chloride and stir an additional 30 minutes. Remove solvent in vacuuo and chromatograph the crude intermediate (1-Benzenesulfonyl-3,3-bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one) using 1:4 ethyl acetate/hexane to elute. Dissolve the intermediate in refluxing 1:1 THF/methanol and add excess cesium fluoride. Stir for 10 minutes, remove solvent in vacuuo, and add 10 mL of water. Extract with ethyl acetate to obtain 0.06 g (47%) of the titled compound as an off-white solid: LCMS (system 2) tR=4.05 min (100%), ESMS (M+1) m/z=514.2; 1H NMR (DMSO-d6); 8.28 (s, 1H), 7.98 (d, 2H), 7.90 (d, 1H), 7.81 (t, 1H), 7.65 (t, 2H), 7.39 (m, 1H), 7.20 (m, 2H), 6.30 (s, 4H), 1.93 (s, 12H).

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one | 1.0 mmol, 0.15 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C36H51NO3Si2
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | sodium hydride | 1.0 equivalent | [H-].[Na+]
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-Benzenesulfonyl-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 0.06 g, 47% | C1(=CC=CC=C1)S(=O)(=O)N1C(C(C2=CC=CC=C12)(C1=CC(=C(C(=C1)C)O)C)C1=CC(=C(C(=C1)C)O)C)=O | C30H27NO5S
